US06265423B1
A solution of raw 4-bromo-2-(1′-hydroxyethyl)thiophene (1.28 g, 6.18 mmol) and PCC (2.6 g, 13.26 mmol) in 20 ml of dichloromethane is put into a flask fitted with magnetic stirring and under an atmosphere of argon. It is agitated vigorously for 2 hours at ambient temperature, the reaction medium becoming progressively black. It is then filtered on a column of florisil (eluent ether), the solvent evaporated and the raw product produced is purified by flash chromatography on silica (eluent pure petroleum ether). 1.10 g of a white solid is obtained 4-bromo-2-acetyl-thiophene (yield=87%).

reactant | 4-bromo-2-(1′-hydroxyethyl)thiophene | 6.18 mmol, 1.28 g | BrC=1C=C(SC1)C(C)O | C6H7BrOS
reactant | PCC | 13.26 mmol, 2.6 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-bromo-2-acetyl-thiophene | yield=87% | BrC=1C=C(SC1)C(C)=O | C6H5BrOS
